US07799932B2
Diethyl 7-(2-ethoxy-2-oxoethyl)-2,3,4,7-tetrahydro-[1,4]dioxepino[2,3-c]pyrrole-6,8-dicarboxylate
To a 500-mL round-bottom flask containing a stir bar and an argon atmosphere was added diethyl 1-(2-ethoxy-2-oxoethyl)-3,4-dihydroxy-1H-pyrrole-2,5-dicarboxylate (48.00 g, 146 mmol), 1,3-dibromopropane (29.48 g, 146 mmol), anhydrous potassium carbonate (50.36 g, 364 mmol), and anhydrous dimethylformamide (DMF) (250 mL). The reaction was heated to 105° C. and became lime green after about 30 minutes. The reaction was stirred for 12 hours, during which, it became yellow, and was cooled to room temperature. The mixture was poured into DI water (500 mL), the solids were collected via vacuum filtration, and washed with several portions of DI water. The solids were recrystallized from hot methanol to yield 44.90 g (80%) of a yellow solid. mp 139.7-139.9° C.; 1H NMR (300 MHz, CDCl3): δ 5.43 (s, 2H), 4.30 (q, 4H, J=7.7 Hz), 4.22 (q, 2H, J=8.0 Hz), 4.20 (t, 6H, J=63 Hz), 2.25 (p, 2H, J=6.3 Hz), 1.34 (t, 6H, J=7.7 Hz), 1.28 (t, 3H, J=8.0 Hz); 13C NMR (75 MHz, CDCl3): δ 169.6, 161.0, 142.7, 114.1, 71.7, 61.5, 60.9, 48.0, 33.4, 14.5, 14.4; HRMS (EI): Calcd for C17H23NO8 ([M]+), 369.1424, found m/z, 369.1417; Anal. Calcd for C17H23NO8: C, 55.28; H3, 6.28; N, 3.79%, found: C, 55.29; H, 6.37; N, 3.80

reactant | diethyl 1-(2-ethoxy-2-oxoethyl)-3,4-dihydroxy-1H-pyrrole-2,5-dicarboxylate | 146 mmol, 48.00 g | C(C)OC(CN1C(=C(C(=C1C(=O)OCC)O)O)C(=O)OCC)=O | C14H19NO8
reactant | 1,3-dibromopropane | 146 mmol, 29.48 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 364 mmol, 50.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | DI water | 500 mL | O | H2O
product | Diethyl 7-(2-ethoxy-2-oxoethyl)-2,3,4,7-tetrahydro-[1,4]dioxepino[2,3-c]pyrrole-6,8-dicarboxylate | 44.90 g, 80% | C(C)OC(CN1C(=C2C(=C1C(=O)OCC)OCCCO2)C(=O)OCC)=O | C17H23NO8
